US05026856
4.0 g of 2-benzyl-5-nitroisoindoline prepared in Reference Example 2-(2) was dissolved in 40 ml of methanol and 800 mg of 10% palladium on carbon was added to the solution. The catalytic hydrogenation was performed for 32 hours at room temperature and under atmospheric pressure. After removing the catalyst by filtration, the filtrate was concentrated to obtain 2.88 g of 2-benzyl-5-aminoisoindoline.

reactant | 2-benzyl-5-nitroisoindoline | 4.0 g | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)[N+](=O)[O-] | C15H14N2O2
solvent | methanol | 40 ml | CO | CH4O
catalyst | palladium on carbon | 800 mg | [Pd] | Pd
product | 2-benzyl-5-aminoisoindoline | 2.88 g | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)N | C15H16N2
